US07566803B2
B. (4-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]-propyl}-2-methylbenzoylamino)acetic acid
A mixture of methyl (4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]propyl}-2-methylbenzoylamino)acetate (0.43 g, 0.89 mmol), CH3OH (10 ml), NaOH (0.18 g, 4.46 mmol), and H2O (1 mL) is refluxed for 2 h. The reaction is concentrated, diluted with H2O (5 ml), acidified (pH 3-4) with 0.1 M HCl and extracted with EtOAc (3×15 mL). The combined organic layers are MgSO4 dried, and concentrated to give the title compound (0.29 g, 71%).

reactant | methyl (4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]propyl}-2-methylbenzoylamino)acetate | 0.89 mmol, 0.43 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C(=O)NCC(=O)OC)C=C1)C | C29H41NO5
reactant | CH3OH | 10 ml | CO | CH4O
reactant | NaOH | 4.46 mmol, 0.18 g | [OH-].[Na+]
solvent | H2O | 1 mL | O | H2O
product | (4-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]-propyl}-2-methylbenzoylamino)acetic acid | 0.29 g, 71% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C(=O)NCC(=O)O)C=C1)C | C28H39NO5
